US07842701B2
N-(3-methoxyphenyl)-N′-[1-(2-nitrophenyl)ethylidene]hydrazine
A mixture of 3-methoxyphenylhydrazine hydrochloride (1.75 g), 2-nitroacetophenone (1.65 g), sodium acetate (0.82 g) and acetic acid (10 ml) was stirred at room temperature for 4 days. To the reaction mixture was added water, extracted with ethyl acetate. The extract was washed with water, brine, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the target compound (2.72 g).

reactant | 3-methoxyphenylhydrazine hydrochloride | 1.75 g | Cl.COC=1C=C(C=CC1)NN
reactant | 2-nitroacetophenone | 1.65 g | [N+](=O)([O-])CC(=O)C1=CC=CC=C1 | C8H7NO3
reactant | sodium acetate | 0.82 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(3-methoxyphenyl)-N′-[1-(2-nitrophenyl)ethylidene]hydrazine | 2.72 g | COC=1C=C(C=CC1)NN=C(C)C1=C(C=CC=C1)[N+](=O)[O-] | C15H15N3O3
